### PR TITLE
[Merged by Bors] - feat(ZLattice): add `Real.finrank_eq_int_finrank_of_discrete`

### PR DESCRIPTION
**Pull request by xroblot**
Prove the following result:
```lean
theorem Real.finrank_eq_int_finrank_of_discrete {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E]
    [FiniteDimensional ℝ E] {s : Set E} (hs : DiscreteTopology (span ℤ s)) :
    Set.finrank ℝ s = Set.finrank ℤ s
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by grunweg** [comment]
The topology change looks good to me. @chrisflav Do you have a moment to look at the algebra change? That could be very helpful.

File: Mathlib/Algebra/Module/ZLattice/Basic.lean [hunk 1]
```diff
@@ -638,6 +638,37 @@ instance instCountable_of_discrete_submodule {E : Type*} [NormedAddCommGroup E]
...
+      unfold L
+      rw [← Submodule.span_preimage_eq Set.Nonempty.of_subtype (by simpa using subset_span),
+        Submodule.span_span_of_tower, ← (map_injective_of_injective (injective_subtype F)).eq_iff,
+        map_subtype_top, LinearMap.map_span]
+      congr
+      have : ((↑) : F → E) '' (((↑) : F → E)⁻¹' s) = s := by
+        rw [Set.image_preimage_eq_iff, Subtype.range_coe_subtype]
+        exact subset_span
+      exact this }
+  exact ZLattice.rank ℝ L
```
Comment (chrisflav) [inline Mathlib/Algebra/Module/ZLattice/Basic.lean:670]:
```suggestion
  let F := span ℝ s
  let L : Submodule ℤ (span ℝ s) := comap (F.restrictScalars ℤ).subtype (span ℤ s)
  let f := Submodule.comapSubtypeEquivOfLe (span_le_restrictScalars ℤ ℝ s)
  have : DiscreteTopology L := by
    let e : span ℤ s ≃L[ℤ] L :=
      ⟨f.symm, continuous_of_discreteTopology, Isometry.continuous fun _ ↦ congrFun rfl⟩
    exact e.toHomeomorph.discreteTopology
  have : IsZLattice ℝ L := ⟨eq_top_iff.mpr <|
    span_span_coe_preimage.symm.le.trans (span_mono (Set.preimage_mono subset_span))⟩
  rw [Set.finrank, Set.finrank, ← f.finrank_eq]
  exact (ZLattice.rank ℝ L).symm
```

Comment (xroblot) [reply Mathlib/Algebra/Module/ZLattice/Basic.lean]: Thanks for the golf!

**Comment by chrisflav** [comment]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
